US08754079B2
175.3 4-[4-Fluoro-2-(trans-4-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to 1.4 from 0.1 g 4-[4-fluoro-2-(trans-4-methoxycyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and ammonia (7M in methanol).

reactant | 4-[4-fluoro-2-(trans-4-methoxycyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.1 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2CC[C@H](CC2)OC | C21H22FN3O4S
reactant | ammonia | 7M | N | H3N
product | 4-[4-Fluoro-2-(trans-4-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@@H]2CC[C@H](CC2)OC | C21H23FN4O3S
